Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
back pain
 
Major Surgical or Invasive Procedure:
none 
 
History of Present Illness:
___ w h/o descending thoracic aortic dissection s/p stent
placement in ___ at ___ w known, stable aortic dissection to 
the
iliacs who presented to ___ today w abdominal pain and
was transferred to ___ due to lack of beds at ___. 
  Pt reports having epigastric pain/discomfort (gas-like) for ~2
days but then this afternoon suddenly had severe tearing pain
across her upper abdomen radiating to her back associated w N/V
(NBNB) and SOB. BP at ___ was 200s/100s. Pt was placed 
on
esmolol and nicardipine drips prior to transfer. Pt's pain
resolved during the ambulance ride. 
  Last ate ~2 pm. Last BM ~3 pm, was normal. Completed a z-pack
today for a sinus infection and has also been on nystatin swish
and spit for thrush. Reports intermittent BRBPR, which she
attributes to hemorrhoids, last ___ wks ago. Also reports
chronic sinus congestion, chronic neck/shoulder/back pain, and
intermittent bilateral burning in her feet for weeks to months.
 
Past Medical History:
-descending thoracic aortic aneurysm s/p TEVAR w known abdominal
aortic dissection to the iliacs, followed by Dr. ___ at
___, last surveillance CTA ___ at ___ (stable,
reports below)
-HTN
-hypothyroidism
-anxiety, depression
-HLD
-neck/back/shoulder pain/arthritis

 
Social History:
___
Family History:
Mother had a coronary angioplasty. Father and brother died at
___ from heart disease. 
 
Physical Exam:
Vitals: 98.8 97.7 65 124/68 16 p3RA
GEN: A&O, NAD, well-appearing
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: Breathing comfortably on room air laying supine
ABD: Soft, nontender, nondistended, no rebound or guarding
Ext: No ___ edema, all extremities warm and well perfused; easily 
palpable radial, DP, and ___ pulses bilaterally
 
Pertinent Results:
___ 11:20PM BLOOD WBC-10.2* RBC-4.54 Hgb-12.5 Hct-37.2 
MCV-82 MCH-27.5 MCHC-33.6 RDW-13.2 RDWSD-38.9 Plt ___
___ 02:07AM BLOOD WBC-8.2 RBC-5.37* Hgb-14.7 Hct-44.2 
MCV-82 MCH-27.4 MCHC-33.3 RDW-13.5 RDWSD-39.9 Plt ___
___ 11:20PM BLOOD ___ PTT-27.2 ___
___ 11:20PM BLOOD Glucose-117* UreaN-19 Creat-0.6 Na-137 
K-4.2 Cl-102 HCO3-22 AnGap-13
___ 02:07AM BLOOD Glucose-112* UreaN-11 Creat-0.7 Na-140 
K-4.0 Cl-100 HCO3-24 AnGap-16
___ 11:20PM BLOOD cTropnT-<0.01
___ 07:00AM BLOOD cTropnT-<0.01

CTA ___:
1. Status post thoracic aortic stent placement, chronic aortic 
dissection 
extending from the aortic hiatus to the proximal right common 
iliac artery is unchanged when compared to the most recent prior 
___ CTA torso from outside facility.  All major 
branches of the abdominal aorta are widely patent, as described 
above.  The right renal artery originates from the false lumen.  
No retroperitoneal hematoma. 
2. Hepatic steatosis 

 
Brief Hospital Course:
___ w h/o descending thoracic aortic dissection s/p stent 
placement in ___ at ___ with known, stable aortic dissection to 
the iliacs who presented to ___ on ___ with abdominal 
pain and was transferred to ___ due to lack of beds at ___. 
She was noted to be hypertensive to the 200s/100s. She was 
started on combined esmolol and nicardipine drips prior to 
transfer. She was evaluated in our ER and complained of 
epigastric pain/discomfort x 2 days that progressed to a tearing 
pain radiating to her back that afternoon. Her pain completely 
resolved after her BP improved. She was noted to have 
persistently palpable pulses. She underwent repeat CTA imaging 
that showed stable dissection involving her right CIA without 
new extension. She was admitted to the ICU for frequent BP 
monitoring for 24 hours. She was weaned off drips and her blood 
pressure was maintained with goal SBP<140 on just her oral home 
regimen. She remained asymptomatic over this time period, able 
to tolerate a regular diet, and with palpable pulses. She was 
discharged home on ___ on her oral home BP regimen to follow up 
in 2 days at schedule PCP ___ for BP monitoring and 
potential adjustment of her medication regimen. She was also 
advised to schedule close follow up with Dr. ___ 
vascular surgeon at ___. 

 
Medications on Admission:
-atorvastatin 20mg daily 
-Cyclobenzaprine - dose unknown
-Effexor XR 75 mg po daily
-Levothyroxine 175 mcg po daily
-Lorazepam 1 mg po QID prn anxiety
-Metoprolol succinate XL 100 mg po daily
-Nifedipine ER 30 mg po daily
-Nystatin swish and spit
 
Discharge Medications:
1.  Atorvastatin 20 mg PO QPM  
2.  Cyclobenzaprine 10 mg PO TID:PRN spasms  
3.  Levothyroxine Sodium 175 mcg PO DAILY  
4.  LORazepam 1 mg PO Q6H:PRN anxiety  
5.  Metoprolol Succinate XL 100 mg PO DAILY  
6.  NIFEdipine (Extended Release) 30 mg PO DAILY  
7.  Venlafaxine XR 75 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
stable descending aortic dissection involving right common iliac 
artery

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to the vascular surgery service at ___ for 
blood pressure monitoring after presenting with abdominal/back 
pain and high blood pressure. You underwent CT imaging showing 
stable findings of the dissection in your aorta. Your blood 
pressure was normal at time of discharge and you are being 
discharged home in stable condition. Please follow up within 1 
week with your primary care doctor regarding your blood pressure 
medication and possible adjustments to your medication regimen. 

If you experience any of the following, please contact your 
surgeon or return to the emergency room for evaluation:
- sharp pain or any severe pain that lasts several hours
- chest pain, pressure, squeezing, or tightness
- cough, shortness of breath, wheezing
- pain that is getting worse over time or pain with fever
- shaking chills, fever of more than 101
- a drastic change in nature or quality of your pain
- nausea and vomiting, inability to tolerate fluids, food, or 
your medications
- if you are getting dehydrated (dry mouth, rapid heart beat, 
feeling dizzy or faint especially while standing)
-any change in your symptoms or any symptoms that concern you
Please call with any questions or concerns. Thank you for 
allowing us to participate in your care. 
-- Your ___ Care Team

 
Followup Instructions:
___